US04277394
(III) Production of H-Tyr-(D)-Leu-Gly-Phe-NH-NH2
In 50 ml of MeOH is dissolved 350 mg of Z-Tyr-(D)-Leu-Gly-Phe-NH-NH2, and following addition of 0.1 ml of acetic acid, catalytic reduction is carried out with palladium black as the catalyst. The catalyst is filteredoff, the filtrate is concentrated and the residue is dissolved in a small amount of 1N-aqueous acetic acid and put on a column of Sephadex LH-20(2.5×120 cm). Elution is carried out with 1 N-aqueous acetic acid and fractions from 320 through 340 ml are collected and lyophilized. 210 mg (60%); [α]D22 +22.6° (c=0.38, MeOH); Rf2 =0.34; amino acid analysis (acid hydrolyzate): Gly, 1.00, Leu, 1.00; Tyr, 0.90; Phe, 1.02; mean recovery rate 70%.

reactant | Z-Tyr-(D)-Leu-Gly-Phe-NH-NH2 | 350 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C34H42N6O7
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | MeOH | 50 ml | CO | CH4O
catalyst | palladium black | [Pd] | Pd
product | H-Tyr-(D)-Leu-Gly-Phe-NH-NH2 | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN | C26H36N6O5
